US06333324B1
To a mixture of benzyl 4-mercaptobutyrate (9.96 g, 47.4 mmol) and potassium nitrate (12 g, 118 mmol) was added dropwise sulfuryl chloride (16 g, 118 mmol) at 0° C., and the mixture was stirred for 10 hours at room temperature. The resulting suspension was adjusted to pH 7 with saturated NaHCO3 solution. The organic layer was separated, washed with saturated NaHCO3 solution and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was dissolved in CHCl3 and the solution was passed through short SiO2 column to give 9.85 g of benzyl 4-chlorosulfonylbutyrate as a slightly brown oil.

reactant | benzyl 4-mercaptobutyrate | 47.4 mmol, 9.96 g | SCCCC(=O)OCC1=CC=CC=C1 | C11H14O2S
reactant | potassium nitrate | 118 mmol, 12 g | [N+](=O)([O-])[O-].[K+]
reactant | sulfuryl chloride | 118 mmol, 16 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | benzyl 4-chlorosulfonylbutyrate | 9.85 g | ClS(=O)(=O)CCCC(=O)OCC1=CC=CC=C1 | C11H13ClO4S
